US08431596B2
Cyclopropanecarboxylic acid {5-[4-(3-methoxy-benzyloxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (WW-123)
To a solution of cyclopropanecarboxylic acid [5-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (WW-022) (0.05 g, 0.17 mmol) in acetonitrile (3 mL), potassium carbonate (0.047 g, 0.34 mmol) was added and the mixture was refluxed for 30 min. 3-Methoxybenzylbromide (0.047 mL, 0.34 mmol) was then added and the solution was refluxed overnight. The mixture was filtered and purified by preparatory HPLC. LCMS method: 1, RT: 5.16 min; MI: 415 [M+1]. NMR 1H (DMSO): 0.79-0.83 (m, 4H), 2.06 (brs, 1H), 3.76 (s, 3H), 5.08 (s, 2H), 6.88 (dd, 1H), 77.03-7.08 (m, 2H), 7.16 (d, 2H), 7.24 (dd, 1H), 7.31 (t, 1H), 7.60-7.67 (m, 2H), 8.00 (dd, 2H).

reactant | cyclopropanecarboxylic acid [5-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | 0.17 mmol, 0.05 g | OC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C16H14N4O2
reactant | potassium carbonate | 0.34 mmol, 0.047 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Methoxybenzylbromide | 0.34 mmol, 0.047 mL | COC=1C=C(CBr)C=CC1 | C8H9BrO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Cyclopropanecarboxylic acid {5-[4-(3-methoxy-benzyloxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | COC=1C=C(COC2=CC=C(C=C2)C2=CC=CC=3N2N=C(N3)NC(=O)C3CC3)C=CC1 | C24H22N4O3
